* gnetlist -L ../.. -g spice-noqsi -o Gm2.net Gm2.sch
* SPICE file generated by spice-noqsi version 20130710
* Send requests or bug reports to jpd@noqsi.com
.subckt GM2 5 1
M4 g3 g3 Vdd Vdd P1  l=1u w=3u         
M3 1 g3 Vdd Vdd P1  l=1u w=3u         
M5 1 3 2 2 N1  l=3u w=3u         
M6 g3 5 4 4 N1  l=3u w=3u         
I2 4 Vss 4uA
I1 2 Vss 4uA
Vb 3 Vss 1.8V
Rs 7 6 10k      
*
*
V_IP5 2 7 DC 0V  
V_IP6 6 4 DC 0V  
.ENDS
