* gnetlist -L ../.. -g spice-noqsi -o Gm2.net Gm2.sch
* SPICE file generated by spice-noqsi version 20130710
* Send requests or bug reports to jpd@noqsi.com
.subckt GM2 g6 d5
M4 g3 g3 d4 d4 P1  l=1u w=3u         
M3 d5 g3 d3 d3 P1  l=1u w=3u         
M5 d5 g5 s5 Vss N1  l=1u w=3u         
M6 g3 g6 s6 Vss N1  l=1u w=3u         
I2 Rs_right Vss 40uA
I1 Rs_left Vss 40uA
Vb g5 Vss 1.8V
Rs Rs_left Rs_right 500k      
*
*
V_IP6 s6 Rs_right DC 0V  
V_IP5 s5 Rs_left DC 0V  
V_IP4 Vdd d4 DC 0V  
V_IP3 Vdd d3 DC 0V  
.ENDS
